US04533661
(e) (S)-Hexahydro-3-[[ethoxy(4-phenylbutyl)phosphinyl]amino]-2-oxo-1H-azepine-1-acetic acid, ethyl ester
A mixture of ethoxy(4-phenylbutyl)phosphinyl chloride [4.4 mmole; prepared as set forth in Example 1(f)], dry tetrahydrofuran (10 ml.), and 3-amino-2-oxo-hexahydro-1H-azepine-1-acetic acid, ethyl ester, monohydrochloride (1.0 g., 4.0 mmole) at 0° (ice bath) in an argon atmosphere is treated dropwise with triethylamine (1.7 ml., 3.0 eq.) in tetrahydrofuran (5 ml.) over 2 minutes. After 20 minutes, the ice bath is removed and the reaction mixture is stirred for an additional 1.5 hours. The reaction mixture is diluted with ethyl acetate and washed successively with saturated sodium bicarbonate, 5% potassium bisulfate, and brine, dried (MgSO4) and evaporated. The residue (2.1 g.) is chromatographed on silica (65 g.) eluting with ethyl acetate then acetone to give 1.0 g. of (S)-hexahydro-3-[[ethoxy(4-phenylbutyl)phosphinyl]amino]-2-oxo-1H-azepine-1-acetic acid, ethyl ester as an oil after evaporation. TLC (ethyl acetate) single spot at Rf =0.1.

reactant | ethoxy(4-phenylbutyl)phosphinyl chloride | C(C)OP(=O)(CCCCC1=CC=CC=C1)Cl | C12H18ClO2P
reactant | 3-amino-2-oxo-hexahydro-1H-azepine-1-acetic acid, ethyl ester, monohydrochloride | 4.0 mmole, 1.0 g | Cl.NC1C(N(CCCC1)CC(=O)OCC)=O
reactant | triethylamine | 1.7 ml, 3.0 eq. | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (S)-Hexahydro-3-[[ethoxy(4-phenylbutyl)phosphinyl]amino]-2-oxo-1H-azepine-1-acetic acid, ethyl ester | C(C)OP(=O)(CCCCC1=CC=CC=C1)N[C@@H]1C(N(CCCC1)CC(=O)OCC)=O | C22H35N2O5P
